US04173566
1-Benzhydryl-2-benzylazetidine
To a solution of 6.0 g of threo-1-benzhydryl-2-(α-hydroxybenzyl)-azetidine and 1.84 g of triethylamine in 100 ml of dry benzene, maintained below 10° C., add 2.08 g of methanesulfonyl chloride. Allow the stirred solution to stand at 6°-10° C. for 2 hours. Add to the mixture, 150 ml of dry dimethyl sulfoxide and 1.40 g of sodium borohydride. Stir at room temperature for 85 hours. Add ether and water, separate the resultant layers, and re-extract the aqueous layer with additional ether. Wash the combined organic phases successively with water and brine, dry over anhydrous sodium sulfate, and remove solvent in vacuo. Chromatograph the resultant oil on 275 g of silica gel, eluting with 1/20 (v/v) ethyl acetate-hexane, to obtain the analytically pure product of this example, m.p. 87.5°-89.5° C.

reactant | triethylamine | 1.84 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.08 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
reactant | sodium borohydride | 1.40 g | [BH4-].[Na+]
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-Benzhydryl-2-benzylazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)CC1=CC=CC=C1 | C23H23N
